C1 (net28 net23) C=3.5E-10
C2 (net22 net17) C=5.1E-12
C3 (vdd! 0) C=7.8E-12
R4 ( net19 net36)  R=6.9E5
T5 ( net36 net5 0 0)  nfet  L=5.07E-6 W=3.82E-6
T6 ( vdd! net5 0 0)  nfet  L=5.07E-6 W=3.82E-6
T7 ( vdd! net36 net5 0)  nfet  L=5.07E-6 W=3.82E-6
T8 (net18 net25 net25 0) nfet L=8.01E-6 W=8.07E-6
C9 (net10 net30) C=2.7E-14
R10 ( net15 net22)  R=1.2E6
T11 ( net22 net31 0 0)  nfet  L=2.86E-6 W=2.05E-6
T12 ( net39 net31 0 0)  nfet  L=2.86E-6 W=2.05E-6
T13 ( net30 net22 net39 0)  nfet  L=2.86E-6 W=2.05E-6
C14 (net29 net19) C=7.4E-11
T15 ( net4 net4 vdd! vdd!)  pfet  L=9.95E-6 W=2.81E-6
T16 ( net14 net4 vdd! vdd!)  pfet  L=9.95E-6 W=2.81E-6
R17 ( net14 net3)  R=7.5E2
C18 (net20 net1) C=0.4E-10
C19 (net4 net16) C=3.5E-10
R20 (net1 vdd!) R=5.7E0
R21 ( 0 net19)  R=9.7E0
T22 ( net19 net10 0 0)  nfet  L=9.30E-6 W=5.67E-6
T23 ( net1 net10 0 0)  nfet  L=9.30E-6 W=5.67E-6
T24 ( net4 net19 net1 0)  nfet  L=9.30E-6 W=5.67E-6
T25 (net29 net3 net3 0) nfet L=3.56E-6 W=6.08E-6
T26 (net26 net37 net37 0) nfet L=9.31E-6 W=1.52E-6
R27 (net25 net32) R=8.4E1
C28 (net8 net37) C=8.5E-13
R29 (vdd! net13) R=6.4E2
R30 (net37 net16) R=7.8E4
T31 (net4 net29 net29 0) pfet L=6.41E-6 W=1.08E-6
T32 (net17 net4 net4 0) nfet L=7.50E-6 W=0.63E-6
R33 (net6 net23) R=3.7E5
R34 (vdd! net6) R=2.0E3
T35 (net3 net32 net32 0) nfet L=7.78E-6 W=7.38E-6
R36 (net15 net27) R=3.6E5
R37 (net35 net7) R=4.6E0
T38 (0 net34 net34 0) nfet L=7.12E-6 W=8.61E-6
T39 (vdd! net32 net32 0) nfet L=4.79E-6 W=7.93E-6
T40 (net15 net37 net37 0) pfet L=7.55E-6 W=7.56E-6
C41 (0 net3) C=7.6E-5
C42 (net25 net32) C=8.1E-7
T43 (net25 net29 net29 0) pfet L=0.82E-6 W=0.33E-6
R44 (net6 net17) R=9.6E5
T45 (net34 net27 net27 0) nfet L=9.96E-6 W=7.72E-6
C46 (net8 net26) C=0.4E-14
C47 (net2 net3) C=0.8E-9
T48 (net21 net34 net34 0) nfet L=8.85E-6 W=7.86E-6
T49 (net11 net30 net30 0) pfet L=4.36E-6 W=4.63E-6
T50 (net2 net33 net33 0) pfet L=4.82E-6 W=0.90E-6
C51 (net24 net6) C=2.1E-8
T52 (net34 net21 net21 0) nfet L=9.72E-6 W=9.06E-6
R53 (net18 net12) R=1.4E0
T54 (net29 0 0 0) pfet L=8.80E-6 W=5.65E-6
T55 (net16 vdd! vdd! 0) pfet L=7.99E-6 W=6.86E-6
T56 (net37 net2 net2 0) pfet L=6.08E-6 W=2.58E-6
T57 (net7 net23 net23 0) nfet L=8.92E-6 W=6.34E-6
T58 (net2 net9 net9 0) nfet L=3.05E-6 W=1.08E-6
T59 (net25 net29 net29 0) pfet L=0.68E-6 W=3.02E-6
T60 (net32 net11 net11 0) pfet L=8.64E-6 W=5.86E-6
T61 (net13 net37 net37 0) pfet L=4.94E-6 W=1.43E-6
C62 (net7 net16) C=5.3E-7
T63 (vdd! net15 net15 0) pfet L=8.56E-6 W=1.33E-6
C64 (net25 vdd!) C=4.0E-8
C65 (net21 net11) C=8.8E-5
T66 (vdd! 0 0 0) nfet L=5.55E-6 W=2.84E-6
R67 (net29 net13) R=2.6E3
T68 (net35 net4 net4 0) pfet L=0.72E-6 W=4.89E-6
C69 (net6 net35) C=5.6E-14
T70 (net2 net24 net24 0) nfet L=3.07E-6 W=3.89E-6
T71 (net16 0 0 0) nfet L=9.85E-6 W=2.24E-6
R72 (net28 net8) R=1.9E0
T73 (net11 net30 net30 0) nfet L=5.65E-6 W=2.94E-6
C74 (vdd! net2) C=3.3E-8
R75 (net18 net35) R=4.4E2
T76 (net33 net20 net20 0) nfet L=8.74E-6 W=9.39E-6
C77 (net17 net25) C=1.9E-5
C78 (0 net30) C=5.7E-14
R79 (net15 net24) R=7.5E4
T80 (net13 0 0 0) nfet L=7.70E-6 W=4.87E-6
T81 (net27 net2 net2 0) nfet L=4.45E-6 W=3.95E-6
C82 (0 net8) C=9.5E-6
C83 (net21 net11) C=2.3E-5
T84 (net17 net11 net11 0) pfet L=3.72E-6 W=7.51E-6
R85 (net2 net30) R=6.8E3
T86 (net25 net30 net30 0) nfet L=4.84E-6 W=5.18E-6
T87 (net13 net23 net23 0) nfet L=1.22E-6 W=8.64E-6
T88 (net27 net9 net9 0) nfet L=6.89E-6 W=1.55E-6
T89 (net4 net2 net2 0) nfet L=6.69E-6 W=6.76E-6
C90 (net9 net24) C=9.1E-6
C91 (net35 0) C=2.5E-14
T92 (net3 net20 net20 0) pfet L=0.55E-6 W=4.94E-6
T93 (net33 net23 net23 0) pfet L=8.70E-6 W=5.32E-6
T94 (net11 net7 net7 0) pfet L=4.56E-6 W=2.24E-6
C95 (net3 0) C=5.3E-12
R96 (net20 net9) R=6.0E2
T97 (0 net8 net8 0) pfet L=10.00E-6 W=8.31E-6
T98 (net15 net34 net34 0) nfet L=2.70E-6 W=9.92E-6
T99 (net21 net20 net20 0) nfet L=6.30E-6 W=2.22E-6
T100 (0 net15 net15 0) pfet L=5.16E-6 W=6.37E-6
R101 (net34 net15) R=3.5E2
T102 (net30 net9 net9 0) nfet L=6.87E-6 W=7.08E-6
R103 (0 net9) R=8.0E4
T104 (net13 net13 net13 0) pfet L=8.56E-6 W=4.15E-6
C105 (net12 net3) C=7.3E-11
T106 (net37 vdd! vdd! 0) nfet L=6.90E-6 W=8.78E-6
C107 (net28 net32) C=2.7E-5
T108 (net3 net16 net16 0) pfet L=3.25E-6 W=4.41E-6
T109 (net25 net4 net4 0) nfet L=6.48E-6 W=6.30E-6
C110 (net16 net12) C=3.3E-6
T111 (net18 net15 net15 0) pfet L=4.33E-6 W=7.09E-6
T112 (vdd! net9 net9 0) pfet L=7.43E-6 W=0.15E-6
C113 (net28 net16) C=3.5E-12
T114 (net9 net7 net7 0) nfet L=1.90E-6 W=8.87E-6
C115 (net27 vdd!) C=0.3E-5
C116 (net12 net34) C=8.0E-5
T117 (net16 net35 net35 0) nfet L=8.03E-6 W=6.00E-6
R118 (net6 net30) R=0.4E1
T119 (net18 net20 net20 0) nfet L=9.04E-6 W=7.02E-6
C120 (net18 net30) C=6.3E-6
T121 (net21 net16 net16 0) pfet L=6.69E-6 W=9.36E-6
C122 (net13 vdd!) C=5.9E-14
C123 (net28 net8) C=3.4E-9
C124 (net25 net23) C=0.3E-14
R125 (net7 net18) R=2.9E5
T126 (net15 net34 net34 0) pfet L=8.44E-6 W=4.20E-6
T127 (net33 net34 net34 0) nfet L=4.25E-6 W=3.78E-6
C128 (net12 net30) C=3.9E-12
T129 (net11 vdd! vdd! 0) pfet L=4.00E-6 W=6.99E-6
R130 (net20 net7) R=4.1E2
C131 (0 net21) C=1.2E-14
C132 (net38 net12) C=1.7E-11
C133 (vdd! net8) C=0.7E-13
T134 (net6 net21 net21 0) nfet L=5.66E-6 W=3.53E-6
T135 (net16 net9 net9 0) pfet L=7.42E-6 W=7.91E-6
T136 (net7 net12 net12 0) nfet L=4.95E-6 W=4.95E-6
T137 (net20 net24 net24 0) pfet L=5.32E-6 W=0.17E-6
R138 (net12 net25) R=2.3E4
R139 (net21 net13) R=4.9E5
T140 (net13 net28 net28 0) pfet L=9.70E-6 W=1.46E-6
C141 (net3 net38) C=3.7E-7
T142 (net20 net26 net26 0) pfet L=2.19E-6 W=5.67E-6
C143 (net11 net25) C=8.2E-8
C144 (net20 net11) C=1.3E-6
R145 (net21 net4) R=7.6E1
R146 (net26 net4) R=8.1E6
T147 (net35 net12 net12 0) pfet L=8.75E-6 W=5.77E-6
R148 (net2 net28) R=6.6E1
R149 (net38 0) R=0.2E2
T150 (net28 vdd! vdd! 0) pfet L=6.44E-6 W=0.41E-6
T151 (net7 net12 net12 0) nfet L=4.32E-6 W=1.33E-6
T152 (net18 net26 net26 0) nfet L=5.90E-6 W=3.68E-6
T153 (net23 net13 net13 0) pfet L=0.38E-6 W=0.40E-6
T154 (net24 net17 net17 0) nfet L=8.81E-6 W=8.50E-6
C155 (net37 net38) C=5.2E-6
T156 (net35 net23 net23 0) pfet L=9.49E-6 W=8.37E-6
T157 (net6 0 0 0) nfet L=5.27E-6 W=7.95E-6
C158 (net27 net25) C=5.2E-6
R159 (net18 net33) R=8.5E1
C160 (net9 net37) C=2.1E-6
R161 (net35 net2) R=9.9E1
T162 (net33 net9 net9 0) nfet L=3.49E-6 W=0.12E-6
T163 (net29 vdd! vdd! 0) pfet L=4.75E-6 W=2.01E-6
R164 (net13 net9) R=6.2E1
R165 (vdd! net25) R=1.0E4

