R1 ( net52 net16)  R=0.3E6
T2 ( net16 net35 0 0)  nfet  L=9.61E-6 W=6.87E-6
T3 ( net31 net35 0 0)  nfet  L=9.61E-6 W=6.87E-6
T4 ( vdd! net16 net35 0)  nfet  L=9.61E-6 W=6.87E-6
T5 (0 net55 net55 0) nfet L=1.79E-6 W=1.64E-6
T6 (net48 net22 net22 0) pfet L=3.77E-6 W=8.38E-6
R7 ( net8 net48)  R=1.6E3
T8 ( net48 net48 net45 vdd!)  pfet  L=2.88E-6 W=7.33E-6
T9 ( net45 net23 vdd! vdd!)  pfet  L=2.88E-6 W=7.33E-6
T10 ( net23 net23 vdd! vdd!)  pfet  L=2.88E-6 W=7.33E-6
T11 ( 0 net48 net23 vdd!)  pfet  L=2.88E-6 W=7.33E-6
T12 (net3 net40 net40 0) nfet L=1.03E-6 W=1.83E-6
T13 (vdd! net22 net22 0) pfet L=8.39E-6 W=4.56E-6
T14 (net47 net10 net10 0) nfet L=6.10E-6 W=3.16E-6
T15 (net46 net44 net44 0) pfet L=7.81E-6 W=0.86E-6
T16 ( net29 net29 vdd! vdd!)  pfet  L=9.67E-6 W=3.88E-6
T17 ( net44 net29 vdd! vdd!)  pfet  L=9.67E-6 W=3.88E-6
R18 ( net44 net28)  R=0.9E4
C19 (net11 net20) C=4.2E-11
R20 ( vdd! net10)  R=9.8E5
T21 ( net10 net10 net52 vdd!)  pfet  L=4.57E-6 W=3.17E-6
T22 ( net52 net46 vdd! vdd!)  pfet  L=4.57E-6 W=3.17E-6
T23 ( net46 net46 vdd! vdd!)  pfet  L=4.57E-6 W=3.17E-6
T24 ( vdd! net10 net46 vdd!)  pfet  L=4.57E-6 W=3.17E-6
T25 (net49 net30 net30 0) pfet L=3.84E-6 W=4.98E-6
R26 (net33 net50) R=7.3E2
T27 (0 net15 net15 0) nfet L=3.33E-6 W=2.06E-6
T28 (vdd! net7 net7 0) nfet L=2.98E-6 W=6.70E-6
C29 (net9 net31) C=3.4E-14
T30 (net9 net33 net33 0) pfet L=1.65E-6 W=5.11E-6
T31 (net3 net31 net31 0) nfet L=3.71E-6 W=1.47E-6
T32 (net21 net51 net51 0) pfet L=9.00E-6 W=5.83E-6
R33 (net18 net51) R=2.8E5
C34 (net12 net51) C=6.0E-14
T35 (net41 net29 net29 0) nfet L=7.61E-6 W=4.26E-6
R36 (net53 net4) R=4.4E1
T37 (net51 net27 net27 0) nfet L=4.84E-6 W=0.32E-6
R38 (vdd! net40) R=3.3E0
C39 (net54 net8) C=1.0E-10
T40 (net29 net24 net24 0) nfet L=3.45E-6 W=6.32E-6
R41 (net55 net53) R=8.5E3
C42 (net13 net50) C=1.7E-11
C43 (net38 net43) C=9.9E-7
T44 (net51 net8 net8 0) nfet L=6.23E-6 W=7.21E-6
T45 (net39 net25 net25 0) nfet L=6.01E-6 W=7.16E-6
C46 (net5 net33) C=4.9E-6
T47 (net55 net51 net51 0) pfet L=4.96E-6 W=7.21E-6
C48 (net11 net17) C=3.8E-6
R49 (net39 net9) R=0.8E2
R50 (net32 net33) R=5.8E3
C51 (0 net4) C=6.1E-6
C52 (0 net2) C=0.6E-5
T53 (net20 net20 net20 0) pfet L=1.56E-6 W=1.67E-6
C54 (vdd! net22) C=0.7E-14
T55 (net6 net39 net39 0) nfet L=6.51E-6 W=7.98E-6
R56 (net29 net6) R=2.3E1
T57 (net50 net8 net8 0) pfet L=8.87E-6 W=1.92E-6
T58 (0 net50 net50 0) nfet L=3.41E-6 W=3.73E-6
R59 (net25 net40) R=3.0E1
R60 (0 net41) R=4.0E3
T61 (net8 net27 net27 0) nfet L=6.96E-6 W=3.94E-6
R62 (net11 net12) R=7.1E4
C63 (net27 net19) C=3.7E-6
T64 (net7 net20 net20 0) pfet L=6.56E-6 W=9.96E-6
R65 (net27 net31) R=6.0E1
T66 (net34 net17 net17 0) nfet L=6.24E-6 W=4.93E-6
R67 (net41 net12) R=6.8E3
C68 (net24 net20) C=2.9E-7
R69 (net30 net12) R=5.9E2
R70 (net1 net54) R=6.6E0
C71 (net14 net4) C=2.9E-12
T72 (net3 vdd! vdd! 0) pfet L=0.58E-6 W=1.04E-6
R73 (net13 net12) R=8.0E6
R74 (net19 net4) R=9.0E3
T75 (net17 net34 net34 0) pfet L=4.81E-6 W=8.87E-6
C76 (net17 net6) C=2.5E-13
T77 (net20 net33 net33 0) nfet L=8.98E-6 W=1.39E-6
R78 (net17 net13) R=2.4E3
T79 (net38 net7 net7 0) pfet L=1.75E-6 W=9.20E-6
T80 (net38 vdd! vdd! 0) nfet L=4.86E-6 W=8.57E-6
R81 (net11 net26) R=4.6E6
R82 (net28 net7) R=4.6E4
T83 (net17 vdd! vdd! 0) nfet L=5.93E-6 W=5.66E-6
R84 (net7 net53) R=9.0E2
T85 (net38 net50 net50 0) pfet L=2.30E-6 W=0.52E-6
C86 (net27 net3) C=1.9E-14
T87 (net49 net36 net36 0) pfet L=5.77E-6 W=1.39E-6

