R1 ( net25 net59)  R=3.6E6
T2 ( net59 net59 net35 0)  nfet  L=7.92E-6 W=2.08E-6
T3 ( net35 net41 0 0)  nfet  L=7.92E-6 W=2.08E-6
T4 ( net41 net41 0 0)  nfet  L=7.92E-6 W=2.08E-6
T5 ( net59 net59 net41 0)  nfet  L=7.92E-6 W=2.08E-6
R6 (0 net90) R=2.4E4
T7 (net28 vdd! vdd! 0) pfet L=4.77E-6 W=3.73E-6
T8 (net44 net4 net4 0) nfet L=9.82E-6 W=5.59E-6
C9 (net31 net83) C=7.8E-10
R10 ( net93 net85)  R=9.2E6
T11 ( net85 net85 vdd! vdd!)  pfet  L=8.71E-6 W=8.75E-6
T12 ( net17 net85 vdd! vdd!)  pfet  L=8.71E-6 W=8.75E-6
T13 (net94 net21 net21 0) pfet L=1.96E-6 W=0.59E-6
T14 (net42 net94 net94 0) nfet L=4.67E-6 W=1.25E-6
R15 ( net33 net82)  R=6.3E0
T16 ( net82 net82 0 0)  nfet  L=2.27E-6 W=5.73E-6
T17 ( net71 net82 0 0)  nfet  L=2.27E-6 W=5.73E-6
T18 (net24 net94 net94 0) nfet L=0.11E-6 W=0.68E-6
R19 ( net80 net94)  R=7.5E4
T20 ( net94 net94 0 0)  nfet  L=3.28E-6 W=9.50E-6
T21 ( net76 net94 0 0)  nfet  L=3.28E-6 W=9.50E-6
C22 (net56 net10) C=9.1E-12
R23 (net60 net91) R=1.9E3
T24 (net58 net4 net4 0) nfet L=6.59E-6 W=7.07E-6
C25 (net27 net55) C=4.3E-10
C26 (net83 net55) C=0.9E-6
R27 (net1 net84) R=6.6E2
C28 (net30 net39) C=3.0E-8
T29 (0 net10 net10 0) pfet L=4.35E-6 W=8.72E-6
R30 (net65 net24) R=3.9E5
R31 (net21 net56) R=5.4E5
C32 (net15 net76) C=5.4E-12
R33 (net39 net80) R=7.1E0
C34 (net92 net66) C=9.6E-11
C35 (net93 net86) C=5.3E-8
T36 (net65 net45 net45 0) nfet L=5.93E-6 W=3.86E-6
T37 (net19 vdd! vdd! 0) nfet L=3.64E-6 W=6.49E-6
R38 (net95 net81) R=8.2E2
C39 (net30 net15) C=0.3E-8
C40 (net70 net75) C=2.8E-5
C41 (net77 net13) C=9.9E-10
C42 (0 vdd!) C=1.3E-10
R43 (net87 net37) R=1.0E0
T44 (net72 0 0 0) pfet L=9.78E-6 W=0.25E-6
R45 (net9 net74) R=1.9E2
C46 (net30 net22) C=6.2E-9
C47 (net63 net69) C=2.9E-6
T48 (net73 net20 net20 0) pfet L=7.99E-6 W=8.65E-6
R49 (net67 net17) R=6.2E2
T50 (net87 net34 net34 0) pfet L=7.12E-6 W=1.40E-6
T51 (net83 net61 net61 0) nfet L=1.36E-6 W=7.76E-6
R52 (net8 net14) R=2.3E3
T53 (vdd! net78 net78 0) nfet L=6.86E-6 W=5.79E-6
T54 (net61 net71 net71 0) nfet L=1.98E-6 W=9.48E-6
C55 (net80 net91) C=0.4E-11
T56 (net84 net90 net90 0) nfet L=2.36E-6 W=8.94E-6
T57 (net53 net86 net86 0) nfet L=3.78E-6 W=9.85E-6
T58 (net29 net14 net14 0) pfet L=4.52E-6 W=5.13E-6
R59 (net31 net62) R=8.2E2
R60 (net6 net83) R=1.3E2
T61 (net40 net13 net13 0) nfet L=4.61E-6 W=0.94E-6
C62 (net9 net20) C=3.2E-14
R63 (net11 net89) R=1.5E0
C64 (net95 net8) C=9.9E-6
T65 (net12 net81 net81 0) nfet L=1.24E-6 W=9.03E-6
C66 (net74 net69) C=0.8E-10
C67 (net45 net28) C=5.7E-9
T68 (net36 net81 net81 0) nfet L=4.00E-6 W=5.80E-6
R69 (net63 net5) R=4.5E2
C70 (net89 net7) C=9.4E-11
T71 (net45 net4 net4 0) pfet L=5.17E-6 W=4.34E-6
T72 (0 net88 net88 0) nfet L=7.67E-6 W=6.27E-6
T73 (net18 net24 net24 0) pfet L=5.57E-6 W=8.24E-6
T74 (net20 net57 net57 0) nfet L=5.31E-6 W=0.34E-6
T75 (net22 net62 net62 0) nfet L=2.38E-6 W=7.55E-6
T76 (net46 net3 net3 0) pfet L=6.78E-6 W=8.21E-6
T77 (net57 net13 net13 0) pfet L=5.42E-6 W=7.43E-6
T78 (net18 net46 net46 0) nfet L=8.37E-6 W=4.28E-6
R79 (net47 net73) R=3.3E3
T80 (net21 net90 net90 0) pfet L=5.79E-6 W=3.37E-6
C81 (net80 net39) C=4.0E-14
C82 (net57 net90) C=0.3E-6
C83 (net91 net37) C=2.6E-13
R84 (net70 net92) R=1.0E1
C85 (net1 net71) C=9.8E-8
R86 (vdd! net33) R=8.9E0
T87 (net14 net2 net2 0) nfet L=0.65E-6 W=1.48E-6
R88 (net5 net81) R=6.3E1
R89 (net49 net76) R=9.2E1
R90 (net1 net19) R=2.0E4
R91 (net77 net67) R=4.6E4
T92 (net6 net55 net55 0) nfet L=7.81E-6 W=7.46E-6
C93 (vdd! net77) C=1.1E-13

