T1 (net3 net9 net9 0) pfet L=4.88E-6 W=6.98E-6
R2 ( net60 net64)  R=9.8E2
T3 ( net64 net1 vdd! vdd!)  pfet  L=7.09E-6 W=1.61E-6
T4 ( net61 net1 vdd! vdd!)  pfet  L=7.09E-6 W=1.61E-6
T5 ( 0 net64 net1 vdd!)  pfet  L=7.09E-6 W=1.61E-6
C6 (net26 net4) C=1.8E-6
T7 (net15 net38 net38 0) pfet L=0.88E-6 W=2.64E-6
T8 (net34 net33 net33 0) nfet L=1.01E-6 W=6.11E-6
R9 ( net32 net46)  R=4.0E2
T10 ( net46 net7 0 0)  nfet  L=7.41E-6 W=6.23E-6
T11 ( net63 net7 0 0)  nfet  L=7.41E-6 W=6.23E-6
T12 ( net6 net46 net63 0)  nfet  L=7.41E-6 W=6.23E-6
T13 (net25 net62 net62 0) pfet L=8.59E-6 W=5.78E-6
T14 (net5 net4 net4 0) pfet L=4.39E-6 W=6.20E-6
R15 ( net54 net45)  R=1.2E1
T16 ( net45 net36 vdd! vdd!)  pfet  L=2.14E-6 W=3.97E-6
T17 ( net47 net36 vdd! vdd!)  pfet  L=2.14E-6 W=3.97E-6
T18 ( net52 net45 net47 vdd!)  pfet  L=2.14E-6 W=3.97E-6
C19 (net43 net50) C=4.1E-14
R20 (net38 net37) R=6.5E4
R21 ( net3 net32)  R=5.9E4
T22 ( net32 net54 vdd! vdd!)  pfet  L=3.19E-6 W=2.69E-6
T23 ( net39 net54 vdd! vdd!)  pfet  L=3.19E-6 W=2.69E-6
T24 ( net58 net32 net39 vdd!)  pfet  L=3.19E-6 W=2.69E-6
C25 (net5 net16) C=0.4E-6
R26 (net41 net4) R=9.4E4
R27 (0 net38) R=8.9E1
T28 (net37 net41 net41 0) pfet L=1.00E-6 W=7.69E-6
T29 (net59 net2 net2 0) nfet L=6.29E-6 W=2.06E-6
T30 (net19 net20 net20 0) pfet L=3.08E-6 W=0.82E-6
T31 (net10 net3 net3 0) nfet L=8.28E-6 W=3.53E-6
T32 (0 net18 net18 0) pfet L=4.30E-6 W=9.10E-6
T33 (net49 net30 net30 0) nfet L=1.36E-6 W=8.12E-6
T34 (net31 net15 net15 0) pfet L=7.53E-6 W=4.46E-6
T35 (net53 net8 net8 0) pfet L=9.16E-6 W=9.08E-6
R36 (net15 net23) R=8.1E5
R37 (net62 net25) R=2.6E5
R38 (net56 net23) R=9.1E1
C39 (net59 net10) C=3.7E-6
T40 (net66 net31 net31 0) pfet L=5.35E-6 W=3.45E-6
T41 (net11 net13 net13 0) pfet L=3.42E-6 W=2.92E-6
R42 (net57 net31) R=1.2E5
T43 (0 net49 net49 0) nfet L=2.85E-6 W=9.83E-6
C44 (net12 vdd!) C=5.6E-11
C45 (net22 0) C=8.1E-12
T46 (net25 net15 net15 0) pfet L=8.63E-6 W=0.23E-6
R47 (net15 net56) R=2.0E3
T48 (net29 net16 net16 0) pfet L=8.75E-6 W=3.03E-6
C49 (net30 net59) C=2.4E-12
T50 (net9 net34 net34 0) nfet L=5.69E-6 W=1.64E-6
C51 (net16 net12) C=4.1E-5
T52 (net35 net49 net49 0) pfet L=9.36E-6 W=1.29E-6
T53 (net50 net18 net18 0) nfet L=2.15E-6 W=9.58E-6
T54 (net33 net34 net34 0) nfet L=4.32E-6 W=3.49E-6
R55 (net33 net61) R=6.4E6
R56 (net58 net26) R=9.8E3
T57 (0 net50 net50 0) nfet L=1.63E-6 W=6.56E-6
T58 (net6 net24 net24 0) pfet L=0.62E-6 W=0.31E-6
T59 (net42 net17 net17 0) pfet L=6.12E-6 W=5.19E-6
T60 (net42 net34 net34 0) nfet L=9.93E-6 W=0.96E-6
C61 (net42 net53) C=9.7E-13
C62 (net43 vdd!) C=6.1E-11
R63 (net27 net4) R=1.9E3
T64 (net44 net20 net20 0) pfet L=6.98E-6 W=0.12E-6
C65 (net31 net21) C=3.8E-5
R66 (0 net10) R=5.7E2
R67 (net23 net35) R=2.9E0
T68 (0 net19 net19 0) nfet L=7.76E-6 W=9.35E-6
R69 (net15 net10) R=7.1E0
C70 (vdd! net13) C=7.9E-13
T71 (net31 net12 net12 0) nfet L=4.47E-6 W=2.53E-6
T72 (net6 0 0 0) pfet L=1.16E-6 W=6.57E-6
C73 (net9 net51) C=6.4E-9
T74 (vdd! net61 net61 0) nfet L=6.36E-6 W=5.52E-6
T75 (net29 net3 net3 0) pfet L=8.27E-6 W=0.11E-6
T76 (net67 net31 net31 0) pfet L=9.89E-6 W=3.25E-6
T77 (net28 vdd! vdd! 0) nfet L=5.34E-6 W=7.60E-6
R78 (vdd! net12) R=1.3E2
C79 (0 net3) C=5.7E-6
T80 (net35 0 0 0) pfet L=6.90E-6 W=6.43E-6
T81 (net15 net62 net62 0) nfet L=5.43E-6 W=9.51E-6
T82 (net40 net53 net53 0) nfet L=3.49E-6 W=1.20E-6
T83 (vdd! 0 0 0) nfet L=7.55E-6 W=4.29E-6
T84 (net38 net51 net51 0) nfet L=6.69E-6 W=8.34E-6
C85 (net6 net5) C=5.7E-9
T86 (net21 net9 net9 0) nfet L=8.19E-6 W=9.83E-6
C87 (net30 net52) C=1.6E-11
C88 (net31 net60) C=0.8E-10
T89 (net67 net5 net5 0) pfet L=7.75E-6 W=9.97E-6
C90 (net42 net5) C=1.9E-13
T91 (net15 net6 net6 0) nfet L=0.74E-6 W=8.54E-6
T92 (net27 net26 net26 0) nfet L=6.12E-6 W=5.08E-6
R93 (net6 vdd!) R=0.7E3
R94 (net23 net22) R=6.6E2
C95 (net13 net28) C=0.9E-14
T96 (net6 net15 net15 0) nfet L=0.55E-6 W=1.94E-6
T97 (net42 net60 net60 0) pfet L=8.14E-6 W=7.54E-6
C98 (net27 net41) C=6.5E-6
T99 (net57 net24 net24 0) pfet L=4.03E-6 W=3.25E-6
C100 (net12 net22) C=1.5E-6
C101 (net3 net59) C=2.7E-7
T102 (net22 net58 net58 0) pfet L=4.47E-6 W=2.03E-6
C103 (net42 0) C=2.0E-6
R104 (net56 net12) R=6.2E0
T105 (net35 net60 net60 0) pfet L=0.67E-6 W=2.96E-6
T106 (net24 net38 net38 0) pfet L=9.73E-6 W=5.32E-6
C107 (net28 net15) C=0.1E-11
R108 (vdd! net10) R=1.4E0
C109 (net10 net3) C=8.0E-12
C110 (net38 net28) C=8.3E-6
T111 (0 net67 net67 0) nfet L=4.41E-6 W=8.44E-6
R112 (net27 0) R=2.6E5
T113 (net13 net19 net19 0) pfet L=2.16E-6 W=9.93E-6
T114 (vdd! net9 net9 0) pfet L=6.90E-6 W=9.27E-6
R115 (net5 net10) R=2.6E2
T116 (0 net23 net23 0) nfet L=8.34E-6 W=8.09E-6
C117 (net27 net9) C=6.5E-11

