T1 (vdd! net20 net20 0) pfet L=7.90E-6 W=2.05E-6
R2 (net29 net15) R=2.9E3
T3 (net29 net4 net4 0) nfet L=5.25E-6 W=9.93E-6
T4 (0 net17 net17 0) pfet L=0.86E-6 W=2.10E-6
R5 ( net5 net2)  R=7.5E4
T6 ( net2 net2 net25 vdd!)  pfet  L=3.00E-6 W=3.02E-6
T7 ( net25 net19 vdd! vdd!)  pfet  L=3.00E-6 W=3.02E-6
T8 ( net19 net19 vdd! vdd!)  pfet  L=3.00E-6 W=3.02E-6
T9 ( net8 net2 net19 vdd!)  pfet  L=3.00E-6 W=3.02E-6
C10 (net28 net7) C=3.3E-6
R11 ( 0 net3)  R=1.7E5
T12 ( net3 net29 vdd! vdd!)  pfet  L=0.53E-6 W=9.44E-6
T13 ( net13 net29 vdd! vdd!)  pfet  L=0.53E-6 W=9.44E-6
T14 ( 0 net3 net29 vdd!)  pfet  L=0.53E-6 W=9.44E-6
T15 (net16 net8 net8 0) pfet L=6.83E-6 W=4.46E-6
R16 ( net7 net11)  R=0.4E2
T17 ( net11 net11 0 0)  nfet  L=5.47E-6 W=8.83E-6
T18 ( 0 net11 0 0)  nfet  L=5.47E-6 W=8.83E-6
T19 (net24 vdd! vdd! 0) pfet L=9.04E-6 W=9.52E-6
T20 (net13 net23 net23 0) nfet L=7.77E-6 W=9.79E-6
T21 (net1 net20 net20 0) pfet L=3.25E-6 W=2.51E-6
C22 (net24 net10) C=9.4E-7
T23 ( net27 net27 vdd! vdd!)  pfet  L=5.82E-6 W=5.28E-6
T24 ( net20 net27 vdd! vdd!)  pfet  L=5.82E-6 W=5.28E-6
R25 ( net20 vdd!)  R=4.5E0
R26 (net4 net5) R=5.8E0

