R1 ( net11 net56)  R=2.9E4
T2 ( net56 net42 vdd! vdd!)  pfet  L=5.20E-6 W=6.35E-6
T3 ( net35 net42 vdd! vdd!)  pfet  L=5.20E-6 W=6.35E-6
T4 ( net43 net56 net35 vdd!)  pfet  L=5.20E-6 W=6.35E-6
T5 (net46 net59 net59 0) nfet L=5.80E-6 W=9.86E-6
R6 ( net10 net19)  R=2.0E1
T7 ( net19 net12 vdd! vdd!)  pfet  L=4.74E-6 W=3.08E-6
T8 ( net32 net12 vdd! vdd!)  pfet  L=4.74E-6 W=3.08E-6
T9 ( 0 net19 net12 vdd!)  pfet  L=4.74E-6 W=3.08E-6
T10 (0 net17 net17 0) pfet L=6.79E-6 W=1.76E-6
R11 (net22 net33) R=10.0E3
R12 ( net47 net1)  R=0.4E6
T13 ( net1 net36 vdd! vdd!)  pfet  L=1.07E-6 W=1.86E-6
T14 ( net43 net36 vdd! vdd!)  pfet  L=1.07E-6 W=1.86E-6
T15 ( 0 net1 net36 vdd!)  pfet  L=1.07E-6 W=1.86E-6
T16 (net24 net22 net22 0) pfet L=2.20E-6 W=5.47E-6
R17 ( net57 net34)  R=0.3E2
T18 ( net34 net34 vdd! vdd!)  pfet  L=1.57E-6 W=1.63E-6
T19 ( vdd! net34 vdd! vdd!)  pfet  L=1.57E-6 W=1.63E-6
R20 (net59 0) R=8.5E5
R21 (net53 net21) R=8.4E2
T22 (net2 net26 net26 0) nfet L=6.09E-6 W=1.28E-6
T23 (net4 net37 net37 0) pfet L=6.44E-6 W=3.99E-6
R24 (net52 net23) R=0.9E0
R25 (net11 net28) R=10.0E0
R26 (net21 vdd!) R=3.7E5
C27 (vdd! net8) C=3.4E-14
C28 (net22 net26) C=9.9E-11
T29 (net59 net53 net53 0) pfet L=4.29E-6 W=8.32E-6
T30 (net43 net61 net61 0) pfet L=1.24E-6 W=7.55E-6
R31 (net62 net57) R=9.7E0
T32 (net15 net44 net44 0) pfet L=3.59E-6 W=8.35E-6
T33 (net40 net58 net58 0) pfet L=6.42E-6 W=5.05E-6
R34 (net46 net3) R=2.6E1
T35 (net18 net51 net51 0) pfet L=9.94E-6 W=6.73E-6
T36 (net17 net52 net52 0) nfet L=5.78E-6 W=5.76E-6
R37 (net45 net53) R=5.0E4
T38 (net13 net25 net25 0) nfet L=0.58E-6 W=3.57E-6
R39 (vdd! net41) R=0.4E4
C40 (net25 net47) C=0.7E-13
T41 (net60 net32 net32 0) pfet L=0.40E-6 W=2.93E-6
T42 (net61 net27 net27 0) pfet L=8.65E-6 W=3.69E-6
T43 (net17 net30 net30 0) nfet L=8.34E-6 W=8.48E-6
C44 (net10 net62) C=0.2E-13
R45 (net31 net45) R=5.9E6
T46 (net28 net49 net49 0) nfet L=7.08E-6 W=7.59E-6
R47 (vdd! net6) R=5.8E5
R48 (net33 net48) R=1.3E5
C49 (net41 0) C=5.5E-11
T50 (net38 net13 net13 0) nfet L=5.68E-6 W=3.22E-6
T51 (net21 net13 net13 0) nfet L=6.84E-6 W=4.13E-6
T52 (net49 net27 net27 0) pfet L=6.43E-6 W=9.57E-6
C53 (net22 0) C=6.4E-6
C54 (net40 net58) C=7.2E-14
T55 (net15 net45 net45 0) nfet L=3.54E-6 W=9.55E-6
T56 (net16 net46 net46 0) nfet L=0.28E-6 W=8.73E-6

