R1 ( net17 net27)  R=3.3E6
T2 ( net27 net27 vdd! vdd!)  pfet  L=8.82E-6 W=5.66E-6
T3 ( net26 net27 vdd! vdd!)  pfet  L=8.82E-6 W=5.66E-6
T4 (net19 net15 net15 0) nfet L=2.82E-6 W=1.82E-6
R5 ( net28 net7)  R=9.0E4
T6 ( net7 net15 0 0)  nfet  L=8.83E-6 W=7.51E-6
T7 ( net32 net15 0 0)  nfet  L=8.83E-6 W=7.51E-6
T8 ( net26 net7 net32 0)  nfet  L=8.83E-6 W=7.51E-6
T9 (net12 net10 net10 0) nfet L=9.37E-6 W=1.70E-6
R10 ( net40 net18)  R=4.1E3
T11 ( net18 net18 0 0)  nfet  L=9.20E-6 W=5.90E-6
T12 ( net2 net18 0 0)  nfet  L=9.20E-6 W=5.90E-6
T13 (net6 net40 net40 0) nfet L=5.06E-6 W=7.40E-6
T14 (net22 net14 net14 0) nfet L=7.31E-6 W=9.84E-6
C15 (net29 net38) C=2.6E-14
T16 ( net2 net2 vdd! vdd!)  pfet  L=5.18E-6 W=5.39E-6
T17 ( net2 net2 vdd! vdd!)  pfet  L=5.18E-6 W=5.39E-6
R18 ( net2 net17)  R=5.6E1
T19 (net33 net1 net1 0) nfet L=0.89E-6 W=0.77E-6
T20 (net39 net30 net30 0) pfet L=2.24E-6 W=7.93E-6
T21 (net9 net10 net10 0) nfet L=2.75E-6 W=2.80E-6
C22 (net39 net10) C=2.5E-14
C23 (net14 net10) C=7.3E-14
T24 (net31 net9 net9 0) pfet L=1.71E-6 W=0.73E-6
C25 (net14 net4) C=9.0E-10
T26 (net22 net23 net23 0) nfet L=3.64E-6 W=1.54E-6
C27 (net1 net40) C=6.6E-14
T28 (net40 net20 net20 0) pfet L=8.00E-6 W=6.93E-6
C29 (net31 net14) C=0.5E-6
T30 (net22 net30 net30 0) pfet L=1.41E-6 W=6.44E-6
T31 (net29 net31 net31 0) pfet L=8.51E-6 W=9.20E-6
C32 (net36 net25) C=9.7E-13
T33 (net28 net28 net28 0) nfet L=3.55E-6 W=0.67E-6
T34 (net35 net22 net22 0) pfet L=6.69E-6 W=9.57E-6

